US04127721
Preparation of 7-Amino[1,2,5]thiadiazolo[3,4-d]pyrimidine
A flask was charged with 19.78 g. (0.15 mole) of 4,5,6-triaminopyrimidine and 163.0 g. (137 mole) of thionyl chloride and the mixture stirred at reflux for 18 hours. The dark orange reaction mixture was evaporated to dryness on the rotary evaporator and to the residue was added 500 ml. water and 40 ml. methanol. The resulting solution was adjusted to a pH of 7.5-8.0 with saturated sodium bicarbonate solution and heated to reflux. The hot mixture was filtered and the filtrate cooled to 0°-5° C. in an ice-bath. The solid was collected by filtration, washed twice with 50 ml. ice water and twice with 50 ml. ether. The resulting tan product was dried in vacuo at 70° C. overnight to afford 18.2 g. (79%) of product. M.p. 247°-249° C.; tlc on silica gel in chloroform-methanol (8:1) showed one spot at Rf = 0.4.

reactant | 4,5,6-triaminopyrimidine | 0.15 mole | NC1=NC=NC(=C1N)N | C4H7N5
reactant | thionyl chloride | 137 mole | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 7-Amino[1,2,5]thiadiazolo[3,4-d]pyrimidine | NC=1C=2C(N=CN1)=NSN2 | C4H3N5S
